US07687627B2
(S)-N-{3-[4-(4-Fluoro-4-methanesulfonamidomethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was prepared by reacting (S)-N-{3-[4-(4-fluoro-4-aminomethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (1.30 mmol) with methane sulfonyl chloride (1.40 mmol) and triethylamine (2.08 mmol) in dichloromethane (10 ml) at a temperature 25° C. for 2 hours followed by purifification of the compound using silica gel column chromatography in 75% yield.

reactant | (S)-N-{3-[4-(4-fluoro-4-aminomethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 1.30 mmol | FC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)CN | C18H24F2N4O3
reactant | methane sulfonyl chloride | 1.40 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2.08 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (S)-N-{3-[4-(4-Fluoro-4-methanesulfonamidomethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 75% yield | FC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)CNS(=O)(=O)C | C19H26F2N4O5S
